US06420409B1
Under nitrogen atmosphere, benzoic acid (92.8 g) was added gradually to a mixture of N,N′-carbonyldiimidazole (123.3 g) and tetrahydrofuran (500 ml) taking 10 minutes at room temperature. After stirring for 1 hour at room temperature, a solution of N-t-butyl-2-hydroxy-1-pentanesulfonamide (84.9 g) in tetrahydrofuran (300 ml) was added dropwise thereto taking 15 minutes. Then, a solution of diazabicycloundecene (57.9 g) in tetrahydrofuran (200 ml) was added dropwise thereto taking 35 minutes and the resulting solution was stirred for 17 hours at room temperature. The reaction mixture was decanted to ice-water, made acidic by adding dilute hydrochloric acid, and extracted with chloroform. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and water, dried over sodium sulfate, and concentrated under reduced pressure to obtain N-t-butyl-2-benzoyloxy-1-pentanesulfonamide (132.8 g) as yellowish brown oil.

reactant | benzoic acid | 92.8 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | N-t-butyl-2-hydroxy-1-pentanesulfonamide | 84.9 g | C(C)(C)(C)NS(=O)(=O)CC(CCC)O | C9H21NO3S
reactant | diazabicycloundecene | 57.9 g | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | N-t-butyl-2-benzoyloxy-1-pentanesulfonamide | 132.8 g | C(C)(C)(C)NS(=O)(=O)CC(CCC)OC(C1=CC=CC=C1)=O | C16H25NO4S
